US05091432
7.34 g (22.42 mmol) of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid (AIT-0082) was placed in a 500 ml round bottom flask equipped with a magnetic stirring bar. 25 ml of water was added and the white slurry was stirred. 18.6 g, 180.3 mmol of 1-(dimethylamino)-2-propanol (AIT-1000) was added to the stirring slurry. The solution rapidly became homogeneous and the reaction was continued for 90 minutes at room temperature. Acetone (350 ml) was then added, and the stirring solution triturated with methanol until a copious white precipitate formed. The product was collected by vacuum filtration and washed with acetone. After drying, 9.45 g (22.0 mmol) of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid compd. with 1-(dimethylamino)-2-propanol (1:1) (AIT-0083) was obtained. Yield: 98%.

reactant | 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid | 22.42 mmol, 7.34 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC1=CC=C(C(=O)O)C=C1 | C15H13N5O4
reactant | water | 25 ml | O | H2O
reactant | 1-(dimethylamino)-2-propanol | 180.3 mmol, 18.6 g | CN(CC(C)O)C | C5H13NO
solvent | Acetone | 350 ml | CC(=O)C | C3H6O
product | 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid compd. with 1-(dimethylamino)-2-propanol | 22.0 mmol, 9.45 g, Yield: 98% | CN(CC(C)O)C.O=C1C=2N=CN(C2N=CN1)CCC(=O)NC1=CC=C(C(=O)O)C=C1 | InChI=1S/C15H13N5O4.C5H13NO/c21-11(19-10-3-1-9(2-4-10)15(23)24)5-6-20-8-18-12-13(20)16-7-17-14(12)22;1-5(7)4-6(2)3/h1-4,7-8H,5-6H2,(H,19,21)(H,23,24)(H,16,17,22);5,7H,4H2,1-3H3
